US03935209
2.3 G. of 1-amino-2-nitro-4-(pyrid-2-ylthio)benzene in 12 ml. concentrated hydrochloric acid is treated with 12 g. of stannous chloride on the steam bath for 15 minutes. The cooled solution is treated with an excess of potassium bicarbonate and extracted with chlorofrom and filtered. The chloroform layer is separated, dried and evaporated to yield 1,2-diamino-4-(pyrid-2-ylthio)benzene.

reactant | 1-amino-2-nitro-4-(pyrid-2-ylthio)benzene | NC1=C(C=C(C=C1)SC1=NC=CC=C1)[N+](=O)[O-] | C11H9N3O2S
reactant | hydrochloric acid | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
product | 1,2-diamino-4-(pyrid-2-ylthio)benzene | NC1=C(C=C(C=C1)SC1=NC=CC=C1)N | C11H11N3S
